US08791132B2
2,4,4,8-Tetramethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (1.0 gm, 4.385 mmol) was dissolved in DMF (8 mL) and sodium hydride (0.526 g, 13.15 mmol) was added portionwise under nitrogen. 4-Oxiranyl-pyridine (0.9 g, 7.45 mmol) was diluted in DMF (2 mL) and added dropwise at RT and stirred for 4 h. After consumption of starting material (by monitoring TLC & LCMS), the reaction mixture was poured in to ice water, product was precipitated and filtered, and the residue was washed with water & hexane, dried under reduced pressure and crystallized in EtOH (10 mL) and diethyl ether (50 mL) to obtain 900 mg of 1-pyridin-4-yl-2-(2,4,4,8-tetramethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-ethanol. 1H NMR (CDCl3, freebase) δ (ppm): 8.62 (d, 2H), 7.37 (d, 2H), 7.31 (d, 1H), 7.19 (s, 1H), 7.01 (d, 1H), 5.22 (t, 1H), 4.32 (d, 1H), 3.6 (d, 1H), 3.48 (d, 1H), 2.65 b (s, 1H), 2.44 (s, 3H), 1.47 (s, 3H), 1.28 (s, 3H). Separation by chiral HPLC provides enantiomers 71a and 71b.

reactant | 2,4,4,8-Tetramethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 4.385 mmol, 1.0 gm | CN1CC2=C(NC=3C=CC(=CC23)C)C(C1)(C)C | C15H20N2
reactant | sodium hydride | 13.15 mmol, 0.526 g | [H-].[Na+]
reactant | 4-Oxiranyl-pyridine | 7.45 mmol, 0.9 g | O1C(C1)C1=CC=NC=C1 | C7H7NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-pyridin-4-yl-2-(2,4,4,8-tetramethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-ethanol | 900 mg | N1=CC=C(C=C1)C(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2(C)C)C)O | C22H27N3O
